US09102662B2
Preparation of methyl 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoate
4-(methoxycarbonyl)-2-nitrobenzoic acid (4.8 gr, 21.3 mmol) and thionyl chloride (15.5 mL) were stirred in THF dry (130 mL) at 70° C. for 2 hours. Volatiles were evaporated and the residue dissolved in dry pyridine (100 mL) at 0° C. A solution of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (4.6 mg, 17.76 mmol) in dry pyridine (10 mL) was added to the cooled reaction mixture. Temperature was allowed to reach room temperature overnight. Reaction was quenched with NaHCO3 sat. sol and extracted with ethyl acetate. Collected organic phases were dried over Na2SO4, filtered and evaporated to dryness. Residue was purified by column chromatography over silica gel (DCM/EtOH/7N NH3 in MeOH=95/5/0.5) affording 5.4 gr (65% yield) of the title compound.

reactant | 4-(methoxycarbonyl)-2-nitrobenzoic acid | 21.3 mmol, 4.8 gr | COC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | thionyl chloride | 15.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 17.76 mmol, 4.6 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
solvent | THF | C1CCOC1 | C4H8O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoate | 5.4 gr, 65% yield | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=C(C=C(C(=O)OC)C=C2)[N+](=O)[O-])C=C(C1)F | C23H16F2N4O5
